US05739129
N-Isopropyl-N-(4-methoxy-phenyl)-2-[2-(pyrimidin-2-ylamino)-phenylamino]-acetamide
To a solution of N-pyrimidin-2-yl-benzene-1,2-diamine (82 mg, 0.441 mmol) in DMF (2 mL) was added potassium carbonate (61 mg, 0.441 mmol), potassium iodide (7 mg, 0.044 mmol), and 2-Bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (126 mg, 0.441 mmol). The resultant reaction mixture was stirred overnight at 60° C. The solvent was removed in vacuo and the crude material partitioned between CH2Cl2 (35 mL) and water (15 mL). The organic phase was separated, dried with MgSO4, filtered and concentrated to a yellow oil which upon trituration with EtOH (6 mL) and filtration gave the title compound (96.7 mg, 0.247 mmol) as yellow crystals: 1H NMR (CDCl3, 300 MHz): 8.36 (d, 2H, J=4.9 Hz), 7.38 (dd, 1H, J=1.2, 7.8 Hz), 7.06-6.90 (m, 6H), 6.75 (t, 1H), 6.66 (t, 1H), 6.36 (dd, 1H, J=1.2, 7.8 Hz), 4.97 (m, 1H), 3.87 (s, 3H), 3.43 (s, 2H), 1.04 (d, 6H, J=6.8 Hz); TLC (EtOAc): Rf =0.62; MS (FAB) m/z 392.0 (MH+).

reactant | N-pyrimidin-2-yl-benzene-1,2-diamine | 0.441 mmol, 82 mg | N1=C(N=CC=C1)NC=1C(=CC=CC1)N | C10H10N4
reactant | potassium carbonate | 0.441 mmol, 61 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.044 mmol, 7 mg | [I-].[K+]
reactant | 2-Bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.441 mmol, 126 mg | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-[2-(pyrimidin-2-ylamino)-phenylamino]-acetamide | 0.247 mmol, 96.7 mg | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=NC=CC=N1)=O)C1=CC=C(C=C1)OC | C22H25N5O2
